US08629286B2
To a solution of methyl-{3-[4-((R)-methyl-1,2,3,4-tetrahydro-naphthalen-1-yl-carbamoyl)-thiazol-2-yl]-propyl}-carbamic acid tert-butyl ester (0.133 g, 0.3 mmol) was added a solution of 1M HCl in dioxane (0.65 mL) at RT. After stirring overnight at RT, the solvent was evaporated under reduce pressure. The resulting solid was triturated with diethylether, and filtered to give 2-(3-methylamino-propyl)-thiazole-4-carboxylic acid methyl-(R)-1,2,3,4-tetrahydro-naphthalen-1-yl-amide hydrochloride salt (0.097 g, 94%). 1H-NMR (400 MHz, CDCl3): δ=9.82-9.58 (br, 2H), 7.79 (s, 1H (conformers)), 7.12-7.03 (m, 4H), 5.43-5.54 (m, 1H (conformers)), 3.45-3.22 (m, 2H), 3.21-3.02 (m, 2H), 2.98-2.64 (m, 5H), 2.61-2.24 (m, 5H), 2.22-1.66 (m, 4H). MS: m/z=330 (M+1). MS: m/z=344 (M+1).

reactant | methyl-{3-[4-((R)-methyl-1,2,3,4-tetrahydro-naphthalen-1-yl-carbamoyl)-thiazol-2-yl]-propyl}-carbamic acid tert-butyl ester | 0.3 mmol, 0.133 g | C(C)(C)(C)OC(N(CCCC=1SC=C(N1)C(N([C@@H]1CCCC2=CC=CC=C12)C)=O)C)=O | C24H33N3O3S
reactant | HCl | 1M | Cl | ClH
solvent | dioxane | 0.65 mL | O1CCOCC1 | C4H8O2
product | 2-(3-methylamino-propyl)-thiazole-4-carboxylic acid methyl-(R)-1,2,3,4-tetrahydro-naphthalen-1-yl-amide hydrochloride salt | 0.097 g, 94% | Cl.CN(C(=O)C=1N=C(SC1)CCCNC)[C@@H]1CCCC2=CC=CC=C12 | InChI=1S/C19H25N3OS.ClH/c1-20-12-6-11-18-21-16(13-24-18)19(23)22(2)17-10-5-8-14-7-3-4-9-15(14)17;/h3-4,7,9,13,17,20H,5-6,8,10-12H2,1-2H3;1H/t17-;/m1./s1
